Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Bright red blood per rectum
 
Major Surgical or Invasive Procedure:
Colonoscopy ___

 
History of Present Illness:
___ female with a history of HTN, mood
disorder who presents with blood from her rectum after a recent
colonoscopy.

Ms. ___ had a colonoscopy performed last week where a large
polyp (tubular adenoma) was removed. The patient was discharged
from the hospital and was told that this polyp was benign.
Yesterday evening, she began to develop some abdominal pain and
noticed that she had blood in her bowel movements. She is also
noted blood in her depends. Last bloody bowel movement was at
8:30 AM this morning which still has staining in a depends.
Patient states however that abdominal pain is since resolved. 
She
denies any chest pain, lightheadedness. She does not feel
lightheaded.

In the ED she was HD stable. Hgb was 10.2. She was seen by GI 
who
is planning colonoscopy tomorrow.
 
Past Medical History:
Hypertension
Hyperlipidemia
Osteoarthritis
Mood disorder 
 
Social History:
___
Family History:
Brother had colon cancer. Mother had leukemia.
 
Physical Exam:
24 HR Data (last updated ___ @ 1229)
    Temp: 98.0 (Tm 98.4), BP: 128/82 (109-128/63-82), HR: 64 
(63-65), RR: 18 (___), O2 sat: 96% (96-99), O2 delivery: RA  

GENERAL: Alert and in no apparent distress. Lying almost flat. 
EYES: Anicteric sclera
ENT: Ears and nose without visible erythema, masses, or trauma.  

CV: Heart regular, no murmur. Bilateral right > left lower
extremity edema. Radial and DP pulses 2+. 
RESP: Lungs clear to auscultation with good air movement. 
Breathing is non-labored
GI: Abdomen is soft, non-distended, non-tender. Bowel sounds
present.
MSK: Neck supple, moves all extremities
SKIN: No rashes noted
NEURO: Alert, speech fluent
PSYCH: Affect a little juvenile 
 
Pertinent Results:
___ 07:35AM BLOOD WBC-5.9 RBC-3.71* Hgb-9.6* Hct-31.2* 
MCV-84 MCH-25.9* MCHC-30.8* RDW-16.3* RDWSD-49.5* Plt ___
___ 07:35AM BLOOD Glucose-95 UreaN-13 Creat-0.7 Na-147 
K-4.2 Cl-110* HCO3-26 AnGap-11
___ 07:35AM BLOOD Phos-2.6* Mg-1.___ female with a history of HTN and mood disorder who 
presents with blood from her
rectum after a recent colonoscopy/polypectomy. Patient underwent 
a Colonoscopy on ___ without evidence of active bleeding 
and with a clean based ulcer at the polypectomy site for which 
additional clips were deployed. Patient was monitored and 
remained hemodynamically stable without hypotension or further 
bleeding per rectum. Hemoglobin on discharge is 9.6 (on ___. 
Patient should have labs monitored within 1 week to assess for 
stability. Patient tolerated a regular diet. Management was 
advised by ERCP team who agree with discharge. 

Of note. Patient has redness of her distal right lower 
extremity. Bilateral and symmetric swelling/tenderness was noted 
on lower extremities and right lower extremity duplex did not 
suggest acute DVT. Patient reports chronic intermittent 
cellulitis. This did not appear to be acute cellulitis and 
patient had no leukocytosis or fever. Skin changes may be 
resultant from prior infection as a dependent 
hyperemia/hyperpigmentation. Please follow clinically. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 5 mg PO QWED 
2. Divalproex (DELayed Release) 500 mg PO BID 
3. Fenofibrate 145 mg PO DAILY 
4. mirabegron 25 mg oral DAILY 
5. Omeprazole 40 mg PO DAILY 
6. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg (1,500 
mg)-800 unit oral DAILY 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
9. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Alendronate Sodium 5 mg PO QWED  
3.  Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral DAILY  
4.  Divalproex (DELayed Release) 500 mg PO BID  
5.  Docusate Sodium 100 mg PO BID  
6.  Fenofibrate 145 mg PO DAILY  
7.  Ferrous Sulfate 325 mg PO DAILY  
8.  mirabegron 25 mg oral DAILY  
9.  Multivitamins W/minerals 1 TAB PO DAILY  
10.  Omeprazole 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post-polypectomy bleeding
Mood disorder
Hyperlipidemia
Iron deficiency anemia
Acute blood loss anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted with post-polypectomy bleeding. ERCP team 
performed a colonoscopy that showed no active bleeding, but 
prior polypectomy site was likely the culprit. You were 
monitored overnight and remained stable. You tolerated an 
advancing diet. You will be discharged home with PCP follow up. 
 
Followup Instructions:
___